US04560700
To a solution of 23,9 g (0.1 mol) of diethyl 3,5-dimethyl-1H-pyrrole-2,4-dicarboxylate in 300 ml of hot ethanol was added a solution of 14 g (0.25 mol) of potassium hydroxide in 350 ml of water. The solution was boiled and the ethanol was allowed to evaporate. After 1.5 hours, the volume was reduced by 350 ml then cooled, filtered, and acidified with 2 N hydrochloric acid. A precipitate formed which was collected, washed with water, and dried to give 19 g of 3,5-dimethyl-4-ethoxycarbonyl-1H-pyrrolecarboxylic acid. This acid was disolved in quinoline, 5 g of powdered copper was added, and the mixture heated to 200° C. during which time carbon dioxide was released. The residue was distilled (0.1 mm/120°-140° C.) and the distillate recrystallized (ethyl ether/pentane) to give the title compound, m.p. 74°-76° C.

reactant | diethyl 3,5-dimethyl-1H-pyrrole-2,4-dicarboxylate | 0.1 mol, 23,9 g | CC1=C(NC(=C1C(=O)OCC)C)C(=O)OCC | C12H17NO4
reactant | potassium hydroxide | 0.25 mol, 14 g | [OH-].[K+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 350 ml | O | H2O
product | 3,5-dimethyl-4-ethoxycarbonyl-1H-pyrrolecarboxylic acid | 19 g | CC1=C(NC(=C1C(=O)OCC)C)C(=O)O | C10H13NO4
